US06869951B1
A solution of the benzamide of part E (2.09 g, 3.4 mmol) in 4N HCl (20 mL) was stirred for 72 hours. The solution was concentrated in vacuo and the residue was dissolved into ethyl acetate (5 mL) and dropped into ethyl ether. The resulting precipitate was collected by vacuum filtration to provide R-N-[4-[[[1-carboxyl]-2-methylpropyl][2-(4-orpholinyl)ethyl]amino]-sulfonyl]phenyl]-4-pentylbenzamide monohydrochloride as white solid (1.9 g, 94%).

reactant | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
reactant | HCl | 4N, 20 mL | Cl | ClH
product | 4-pentylbenzamide monohydrochloride | 1.9 g, 94% | Cl.C(CCCC)C1=CC=C(C(=O)N)C=C1 | InChI=1S/C12H17NO.ClH/c1-2-3-4-5-10-6-8-11(9-7-10)12(13)14;/h6-9H,2-5H2,1H3,(H2,13,14);1H
